US04435336
186.2 g (2 mols) of aniline are initially introduced into 500 ml of 1,2-dichlorobenzene and 208.3 g (2.04 mols) of 96% strength sulphuric acid are added dropwise. The mixture is heated for 8 hours at the boil under a water separator, during which period distillate passes over at a rate of 700 ml per hour, cooled and filtered with suction. After it has been dried, the precipitate weighs 338.5 g and contains 86.1% of p-sulphanilic acid (84.2% of the theoretical yield) and 11.2% of aniline-2,4-disulphonic acid (7.5%, relative to aniline).

reactant | aniline | 2 mols, 186.2 g | NC1=CC=CC=C1 | C6H7N
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichlorobenzene | 500 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | aniline-2,4-disulphonic acid | NC=1C(=CC(=CC1)S(=O)(=O)O)S(=O)(=O)O | C6H7NO6S2
